US06667322B2
To a solution of 2-((3S)-4-{[tert-butyl(dimethyl)silyl]oxy}-3-hydroxybutyl)-6-methoxyphenol (6.90 g, 21.1 mmol) in toluene (250 mL) cooled to 0° C. was added triphenylphoshine (6.10 g, 23.2 mmol) followed by dropwise addition of diethyl azodicarboxylate (4.05 g, 23.2 mmol). The reaction mixture was allowed to stir at room temperature for 15 min. The reaction mixture was quenched by the addition of water (300 mL). The aqueous layer was separated and extracted with diethyl ether (2×150 mL). The combined organic extracts were washed with water (200 mL), aqueous sodium chloride (300 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:4) provided 4.94 g (76%, 40% ee) of tert-butyl(dimethyl)silyl [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl ether as a colorless oil. [α]D25=−25.84 (c 10.82 in chloroform, 40% ee); Rf=0.68 (silica, ethyl acetate:hexanes 1:4); Anal. Calcd. for C17H28O3Si.0.1 H2O: C, 65.8; H, 9.16. Found: C, 65.75; H, 8.88.

reactant | 2-((3S)-4-{[tert-butyl(dimethyl)silyl]oxy}-3-hydroxybutyl)-6-methoxyphenol | 21.1 mmol, 6.90 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CCC1=C(C(=CC=C1)OC)O)O | C17H30O4Si
reactant | triphenylphoshine | 23.2 mmol, 6.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 23.2 mmol, 4.05 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl(dimethyl)silyl [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl ether | 4.94 g, 76% | COC=1C=CC=C2CC[C@@H](OC12)CO[Si](C)(C)C(C)(C)C | C17H28O3Si
